US05684002
To a solution of (7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl) carboxylic acid chloride (450 mg, 1.69 mmol) in CH2Cl2 (10 mL) is added in a single portion n-propylamine (2 mL). After the exothermic reaction subsides, the mixture is evaporated and suspended in 1N HCl (10 mL). The insoluble material is filtered and crystallized from isopropanol/H2O, to yield N-propyl (7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)carboxamide as white needles.

reactant | (7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl) carboxylic acid chloride | 1.69 mmol, 450 mg | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)C(=O)Cl | C15H19ClO2
reactant | n-propylamine | 2 mL | C(CC)N | C3H9N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-propyl (7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)carboxamide | C(CC)NC(=O)C1=CC2=C(OCC2(C)C)C(=C1)C(C)(C)C | C18H27NO2
